US09212182B2
A RBF was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (272 mg, 0.550 mmol), (3,5-difluorophenyl)boronic acid (130 mg, 0.825 mmol), potassium carbonate (228 mg, 1.651 mmol), and Pd(Ph3P)4 (63.6 mg, 0.055 mmol). The vial was sealed with a septum cap and flushed with N2 (g), then Dioxane (2064 μl) and Water (688 μl) were added via syringe. The mixture was heated at 90° C. for 40 min. The mixture was diluted with HCl (8 mL, 1M aq) then extracted with EtOAc (2×20 mL). The organic layers were combined and concentrated. The residue was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0%-3% MeOH in DCM, to provide N-(isoxazol-3-yl)-2-oxo-1-(2,3′,5′-trifluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide. The racemic N-(isoxazol-3-yl)-2-oxo-1-(2,3′,5′-trifluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide was subjected to chiral separation by SFC on an AS-H column (25% MeOH/75% CO2) to give (P)—N-(isoxazol-3-yl)-2-oxo-1-(2,3′,5′-trifluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide as peak 1 and (M)-N-(isoxazol-3-yl)-2-oxo-1-(2,3′,5′-trifluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide as peak 2. Data for peak 1: 1H NMR (500 MHz, DMSO-d6) δ 11.65 (br. s., 1H), 8.72 (d, J=1.66 Hz, 1H), 8.38 (d, J=1.98 Hz, 1H), 8.16-8.31 (m, 1H), 7.86 (dd, J=2.08, 8.98 Hz, 1H), 7.56 (d, J=10.47 Hz, 1H), 7.47 (t, J=6.79 Hz, 3H), 7.33-7.43 (m, 1H), 6.84-6.91 (m, 1H), 6.77-6.84 (m, 1H), 6.41-6.49 (m, 1H), 3.70-3.83 (s, 3H). m/z (ESI) 528.0 (M+H)+. Data for peak 2: 1H NMR (500 MHz, DMSO-d6) δ 11.65 (br. s., 1H), 8.72 (d, J=1.66 Hz, 1H), 8.38 (d, J=1.98 Hz, 1H), 8.16-8.31 (m, 1H), 7.86 (dd, J=2.08, 8.98 Hz, 1H), 7.56 (d, J=10.47 Hz, 1H), 7.47 (t, J=6.79 Hz, 3H), 7.33-7.43 (m, 1H), 6.84-6.91 (m, 1H), 6.77-6.84 (m, 1H), 6.41-6.49 (m, 1H), 3.70-3.83 (s, 3H). m/z (ESI) 528.0 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.550 mmol, 272 mg | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H13BrFN3O5S
reactant | (3,5-difluorophenyl)boronic acid | 0.825 mmol, 130 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 1.651 mmol, 228 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.055 mmol, 63.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(isoxazol-3-yl)-2-oxo-1-(2,3′,5′-trifluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide | O1N=C(C=C1)NS(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1OC)C1=CC(=CC(=C1)F)F)F)=O | C25H16F3N3O5S
